US04725584
4-t-Butyloxycarbonylamino-3-hydroxy-6-methylhept-1-ene
To a stirred 0° C. solution of Boc-leucinal (3.00 g, 13.9 mmol) in dry THF (70 ml) was added vinyl magnesium bromide (35 ml of a 1.0M solution in THF). After 5 hours, the mixture was quenched with 1.0M NH4Cl (50 ml). Most of the THF was evaporated in vacuo and the residue was extracted with ether several times. The combined extracts were washed (brine), dried (Na2SO4), filtered, and evaporated to give the desired product as a 3:2 mixture of hydroxydiastereomers in 65% field.

reactant | Boc-leucinal | 13.9 mmol, 3.00 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C=O | C11H21NO3
reactant | vinyl magnesium bromide | C(=C)[Mg]Br
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 4-t-Butyloxycarbonylamino-3-hydroxy-6-methylhept-1-ene | C(C)(C)(C)OC(=O)NC(C(C=C)O)CC(C)C | C13H25NO3
